US08168794B2
To a solution of (3S,5R)-benzyl 3-azido-5-fluoropiperidine-1-carboxylate (1 eq) in a mixture of 11 mL of pyridine and 1.5 mL of ammonium hydroxide was added 1M trimethylphosphine (3 eq) at room temperature. The reaction mixture was stirred at room temperature for 3 hours at which point the solvents were removed under reduced pressure to give a yellow oil. The oil was again dissolved in 100 mL of ethanol and concentrated to remove ammonium hydroxide completely. The residue was dissolved in 12 ml of 1,4-dioxane and 12 mL of sat. aq. NaHCO3 was added. Di-tert-butyl dicarbonate (4 eq) in 6 mL of THF was added dropwise at 0° C. The mixture was allowed to stir at room temperature for 1 hour. The crude mixture was diluted with 150 mL of EtOAc, washed with brine, then dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (EtOAc:hexanes=1:1) to yield (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-fluoropiperidine-1-carboxylate (95%). LC/MS (m/z): 253.1 (MH+-100).

reactant | (3S,5R)-benzyl 3-azido-5-fluoropiperidine-1-carboxylate | 1 eq | N(=[N+]=[N-])[C@@H]1CN(C[C@@H](C1)F)C(=O)OCC1=CC=CC=C1 | C13H15FN4O2
reactant | trimethylphosphine | 1M, 3 eq | CP(C)C | C3H9P
reactant | Di-tert-butyl dicarbonate | 4 eq | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | 11 mL | N1=CC=CC=C1 | C5H5N
solvent | ammonium hydroxide | 1.5 mL | [OH-].[NH4+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | (3S,5R)-benzyl 3-(tert-butoxycarbonylamino)-5-fluoropiperidine-1-carboxylate | 95% | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)F)C(=O)OCC1=CC=CC=C1 | C18H25FN2O4
